US07855292B2
A. 2-(Benzo[1,2,5]thiadiazole-4-sulfonylamino)-4-methylbenzoic acid methyl ester
The title compound (1.22 g, 53%) was prepared from benzo[1,2,5]thiadiazole-4-sulfonyl chloride and 2-amino-4-methyl-benzoic acid methyl ester as in Example 10, Part A. 1H NMR (500 MHz, CDCl3): 11.28 (s, 1H), 8.36 (dd, J=7.1, 1.0, 1H), 8.19 (dd, J=8.8, 1.0, 1H), 7.73 (d, J=8.1, 1H), 7.68 (dd, J=8.8, 7.1, 1H), 7.51 (br s, 1H), 6.77 (dd, J=8.1, 0.9, 1H), 3.89 (s, 3H), 2.28 (s, 3H).

reactant | benzo[1,2,5]thiadiazole-4-sulfonyl chloride | N1=C2C(=NS1)C(=CC=C2)S(=O)(=O)Cl | C6H3ClN2O2S2
reactant | 2-amino-4-methyl-benzoic acid methyl ester | COC(C1=C(C=C(C=C1)C)N)=O | C9H11NO2
product | 2-(Benzo[1,2,5]thiadiazole-4-sulfonylamino)-4-methylbenzoic acid methyl ester | 1.22 g, 53% | COC(C1=C(C=C(C=C1)C)NS(=O)(=O)C1=CC=CC=2C1=NSN2)=O | C15H13N3O4S2
